US07687502B2
6-(1-Methylpyrazol-3-ylsulfanyl)-thiazolo[5,4-b]-pyridin-2-ylpyrido[3,2-d]pyrimidin-4-yl-amine
The compound of Example 39 was manufactured by the same method as in Example 31, by a similar method thereto or by a combination of such a method with a conventional method using 3-mercapto-1-methylpyrazole, thiazolo[5,4-b]pyridin-2-yl-amine and 4,6-dichloro-pyrido[3,2-d]pyrimidine.

reactant | 3-mercapto-1-methylpyrazole | SC1=NN(C=C1)C | C4H6N2S
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
product | 6-(1-Methylpyrazol-3-ylsulfanyl)-thiazolo[5,4-b]-pyridin-2-ylpyrido[3,2-d]pyrimidin-4-yl-amine | CN1N=C(C=C1)SC=1C=C2C(=NC1)SC(=N2)NC=2C1=C(N=CN2)C=CC=N1 | C17H12N8S2
